US07935815B2
Synthesis of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylamide
Isopropyl chloroformate (3.99 mL) was added dropwise to a solution of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid (5.2 g) and N,N-diisopropylethylamine (7.44 mL) in DMF (52 mL) under ice-cooling, and the reaction solution was stirred for 20 minutes. Aqueous ammonic (5.2 mL) was added to the reaction solution, and the reaction solution was stirred at room temperature for 30 minutes. Similarly, ethyl chloroformate (3.76 mL) was added dropwise to a solution of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid (4.8 g) and N,N-diisopropylethylamine (6.87 mL) in DMF (48 mL) under ice-cooling, and the reaction solution was stirred for 10 minutes. Then, aqueous ammonia (5.2 mL) was added to the reaction solution, and the reaction solution was stirred at room temperature for 30 minutes. The reaction solutions were mixed and diluted with water and chloroform, and then the organic layer was separated. The aqueous layer was extracted with chloroform five times. The organic layers were combined, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-2-propanol system) to obtain 3.54 g of the title compound. The property value of the compound is as follows.

reactant | Isopropyl chloroformate | 3.99 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid | 5.2 g | COC1=C(C=CC(=N1)/C=C/C(=O)O)N1C=NC(=C1)C | C13H13N3O3
reactant | N,N-diisopropylethylamine | 7.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloroformate | 3.76 mL | ClC(=O)OCC | C3H5ClO2
reactant | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid | 4.8 g | COC1=C(C=CC(=N1)/C=C/C(=O)O)N1C=NC(=C1)C | C13H13N3O3
reactant | N,N-diisopropylethylamine | 6.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonia | 5.2 mL | N | H3N
solvent | DMF | 52 mL | CN(C)C=O | C3H7NO
solvent | DMF | 48 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylamide | 3.54 g | COC1=C(C=CC(=N1)/C=C/C(=O)N)N1C=NC(=C1)C | C13H14N4O2
